US06288054B1
A mixture of 5-acetyl-2-chlorobenzothiazole (137 mg, 0.65 mmol), potassium hydrogen sulfide (94 mg, 1.30 mmol) and ethanol (3.3 mL) in a capped flask was stirred in an oil bath at 80° C. for two hours. The mixture was cooled in ice, acidified with 1N hydrochloric acid (1.35 mL) and evaporated in vacuo. The residue was partitioned between water (25 mL) and ethyl acetate (50, 25 mL). The organic extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated in vacuo to a solid (133 mg). This material was triturated with ether and dried to provide 5-acetyl-2-thioxo-2,3-dihydrobenzothiazole (110 mg) as a pale yellow solid.

reactant | 5-acetyl-2-chlorobenzothiazole | 0.65 mmol, 137 mg | C(C)(=O)C=1C=CC2=C(N=C(S2)Cl)C1 | C9H6ClNOS
reactant | potassium hydrogen sulfide | 1.30 mmol, 94 mg | S.[K]
reactant | hydrochloric acid | 1N, 1.35 mL | Cl | ClH
solvent | ethanol | 3.3 mL | C(C)O | C2H6O
product | 5-acetyl-2-thioxo-2,3-dihydrobenzothiazole | 110 mg | C(C)(=O)C=1C=CC2=C(NC(S2)=S)C1 | C9H7NOS2
